US07943625B2
(a) 4-[(2-isopropoxyethyl)amino]-1H-imidazole-5-carboxamide
Trichlorocyanuric acid (1.23 g, 5.29 mmol) was added to a solution of 2-isopropoxyethanol (0.50 g, 4.80 mmol) in CH2Cl2 (3 mL). The reaction mixture was cooled to 0° C. and TEMPO (0.015 g, 0.09 mmol) was carefully added in small portions. The mixture was stirred at r.t. for 20 minutes and then filtrated through Celite and washed with CH2Cl2. The filtrate was kept cold, 0° C., during the filtration. The obtained aldehyde solution was added to a stirred mixture of 4-amino-1H-imidazole-5-carboxamide hydrochloride (0.78 g, 4.80 mmol), which was obtained from Example 3(b), at 0° C. in MeOH (5 mL). The mixture was stirred for 20 minutes, then NaCNBH4 (0.30 g, 4.80 mmol) was added. After stirring at r.t for 5 h the mixture was concentrated and purified by flash chromatography (CH2Cl2/methanol gradient; 0 to 5% methanol), to yield the title compound (0.39 g, 38%) as an oil.

reactant | Trichlorocyanuric acid | 5.29 mmol, 1.23 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | 2-isopropoxyethanol | 4.80 mmol, 0.50 g | C(C)(C)OCCO | C5H12O2
reactant | 4-amino-1H-imidazole-5-carboxamide hydrochloride | 4.80 mmol, 0.78 g | Cl.NC=1N=CNC1C(=O)N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5 mL | CO | CH4O
catalyst | TEMPO | 0.09 mmol, 0.015 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | 4-[(2-isopropoxyethyl)amino]-1H-imidazole-5-carboxamide | 0.39 g, 38% | C(C)(C)OCCNC=1N=CNC1C(=O)N | C9H16N4O2
